US06664256B1
Preparation of 4-(4-chlorophenyl)-6-(2,4-difluorophenoxy)-3-[4-(methylthio)phenyl]pyridazine
In a similar manner as in Example 2, 6-chloro-4-(4-chlorophenyl)-3-[4-(methylthio)phenyl]pyridazine (230.0 mg, 0.662 mmol) and 2,4-difluorophenol were reacted as starting materials at 150° C. for 20 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless plates (dichloromethane-hexane, 216.2 mg, 74.0%). Melting point: 163.2-164.0° C.

reactant | 6-chloro-4-(4-chlorophenyl)-3-[4-(methylthio)phenyl]pyridazine | 0.662 mmol, 230.0 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)Cl | C17H12Cl2N2S
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 4-(4-chlorophenyl)-6-(2,4-difluorophenoxy)-3-[4-(methylthio)phenyl]pyridazine | ClC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1=C(C=C(C=C1)F)F)C1=CC=C(C=C1)SC | C23H15ClF2N2OS
